US08278328B2
Description 61a. 4-{[2-(Methyloxy)ethyl]oxy}cyclohexanone. (D61)
8-{[2-(Methyloxy)ethyl]oxy}-1,4-dioxaspiro[4.5]decane (D60) (1.6 g, 7 mmol), was dissolved in 20 mL of THF and HCl (25 eq., 5M, 35 mL) was added at Rt. The mixture was stirred at Rt for 5 hr. THF was then evaporated and the aqueous was extracted with dichloromethane (2×). Organics were washed once with water, dried over Na2SO4, filtered and the solvent was evaporated to afford the title compound, 1.3 g, complete conversion as a pale yellow oil.

reactant | 8-{[2-(Methyloxy)ethyl]oxy}-1,4-dioxaspiro[4.5]decane | 7 mmol, 1.6 g | COCCOC1CCC2(OCCO2)CC1 | C11H20O4
reactant | HCl | 5M, 35 mL, 25 eq. | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-{[2-(Methyloxy)ethyl]oxy}cyclohexanone | COCCOC1CCC(CC1)=O | C9H16O3
